US03976695
A solution of bromine (16.0 g., 0.1 m.) in 100 ml. of chloroform is added dropwise to a stirred solution of 39.5 g. (0.1 m.) of 2-chloro-3,4-dibenzyloxybutyrophenone and 0.2 g. of dibenzoyl peroxide in 650 ml. of chloroform. After stirring for 30 minutes at 25°C., the reaction mixture is washed with water, aqueous saturated sodium bicarbonate and again with water. The chloroform solution is dried and concentrated in vacuo to leave a residue of α-bromo-2-chloro-3,4-dibenzyloxybutyrophenone.

reactant | bromine | 16.0 g | BrBr | Br2
reactant | 2-chloro-3,4-dibenzyloxybutyrophenone | ClC(C(=O)C1=CC=CC=C1)C(COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C24H23ClO3
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | α-bromo-2-chloro-3,4-dibenzyloxybutyrophenone | BrC(C(=O)C1=CC=CC=C1)(C(COCC1=CC=CC=C1)OCC1=CC=CC=C1)Cl | C24H22BrClO3
